US07807673B2
The title compound was synthesized from 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(4-(methyloxy)-3-{4-[2-(methylsulfonyl)ethyl]-1-piperazinyl}phenyl)-2-pyrimidinamine using 2-thienylacetyl chloride as described in Example 10, Step E to give a light brown solid in 47% yield. 1H NMR (400 MHz, DMSO-D6) δ ppm 2.5 (m, 4H) 2.7 (m, 3H) 2.9 (m, 4H) 3.0 (s, 3H) 3.7 (s, 3H) 3.9 (s, 2H) 6.4 (d, J=5.1 Hz, 1H) 6.8 (d, J=9.1 Hz, 1H) 7.0 (d, J=4.6 Hz, 2H) 7.1 (t, J=6.6 Hz, 1H) 7.3 (m, 3H) 7.4 (d, J=10.4 Hz, 1H) 7.4 (m, 2H) 7.7 (d, J=8.1 Hz, 1H) 7.9 (s, 1H) 8.2 (d, J=5.5 Hz, 1H) 8.8 (d, J=7.0 Hz, 1H) 9.3 (s, 1H) 10.3 (s, 1H). ES-LC/MS m/z 723 [M+H]+.

reactant | 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(4-(methyloxy)-3-{4-[2-(methylsulfonyl)ethyl]-1-piperazinyl}phenyl)-2-pyrimidinamine | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=C(C=C1)OC)N1CCN(CC1)CCS(=O)(=O)C | C31H34N8O3S
reactant | 2-thienylacetyl chloride | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
product | N-[3-(3-{2-[(4-(Methyloxy)-3-{4-[2-(methylsulfonyl)ethyl]-1-piperazinyl}phenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2-(2-thienyl)acetamide | 47% yield | COC1=C(C=C(C=C1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O)N2CCN(CC2)CCS(=O)(=O)C | C37H38N8O4S2
